US04551460
Preparation of 2-[[(4-pyridyl)methyl]thio]ethanamine
34.1 g of sodium hydroxide was dissolved in 500 ml of ethanol under an argon atmosphere and 48.6 g of 2-mercaptoethanamine hydrochloride and 35 g of 4-chloromethylpyridine pyridine hydrochloride were added with ice bath cooling. The reaction mixture was allowed to warm to room temperature over 2 hours, was concentrated, diluted with 300 ml of water and was extracted with 3×150 ml of dichloromethane. The combined organic layers were washed with 100 ml of saturated brine, dried over potassium carbonate and were evaporated to a dark oil which was distilled. The fractions bp 120°-130° C./0.1 mm amounted to 30.68 g (85%) of 2-[[(4-pyridyl)methyl]thio]ethanamine.

reactant | sodium hydroxide | 34.1 g | [OH-].[Na+]
reactant | 2-mercaptoethanamine hydrochloride | 48.6 g | Cl.SCCN
reactant | 4-chloromethylpyridine pyridine hydrochloride | 35 g | Cl.N1=CC=CC=C1.ClCC1=CC=NC=C1
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-[[(4-pyridyl)methyl]thio]ethanamine | N1=CC=C(C=C1)CSCCN | C8H12N2S
